US08835472B2
2-Ethynyl-5-(4-methoxyphenyl)pyrazine
To 2.00 g (7.08 mmol) 2-(4-methoxyphenyl)-5-((trimethylsilyl)ethynyl)pyrazine in 50 mL DCM are added 2.08 g (7.44 mmol) TBAF*H2O and the reaction mixture is stirred at r.t. for 30 min. The mixture is washed with 50 mL water (3×) and the organic layer is dried with MgSO4 and the solvent is removed in vacuo. The crude product is purified by column chromatography (silica gel, PE/EtOAc 100/0→80/20).

reactant | 2-(4-methoxyphenyl)-5-((trimethylsilyl)ethynyl)pyrazine | 7.08 mmol, 2.00 g | COC1=CC=C(C=C1)C1=NC=C(N=C1)C#C[Si](C)(C)C | C16H18N2OSi
reactant | TBAF | 7.44 mmol, 2.08 g | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-Ethynyl-5-(4-methoxyphenyl)pyrazine | C(#C)C1=NC=C(N=C1)C1=CC=C(C=C1)OC | C13H10N2O
